Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
DKA, NSTEMI
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ with DMI p/w refractory hyperglycemia, lethargy 
and anorexia.  Three weeks ago, she suffered a MVA, fracturing 
her sternum and two ribs (rear passenger wearing seatbelt).  Her 
fracture resulted in severe pain "in her sternum," requiring 
oxycodone for ___ days (now improved, ___.  She has also been 
persistently hyperglycemic, with BS 400s-500s, requiring 
uptitration of her insulin regimen (from 5 units glargine -> 10 
units glargine).  

10 days ago, she began experiencing a dry cough (worse lying 
down, better sitting up), with hoarseness of voice, and a new 
requirement for two pillows when sleeping (previously lay flat). 
 Her friend had recently been sick with similar symptoms.  She 
also experienced decreased urination, needing to get up in the 
middle of the night for small volumes of urine.  Denies dysuria. 
 BM have been normal.  No blood or diarrhea.

A few days ago, her FSBG rose from baseline of 160s to 400+.  
She felt increasingly fatigued and tired.  She also always felt 
cold, which she attributes to the heat not working in her home.  
Last night (___), she continued to talk with ___ 
regarding management of her refractory hyperglycemia.  She was 
advised to present to the ED.     
 
In the ED, initial vs were: T 98.2, HR 80, BP 155/51, RR 16, O2 
100%.  She was found to have trop 0.39 and EKG with new V5/6 
STD.  Glucose 425 with HCO3 19, AG 20, Lactate 2.5, K 4.8, Na 
127, Cre 1.5 (baseline XXX), WBC 15.5, Hct 33.6, Plt 347.  ABG 
pH 7.43, pCO2 33, pO2 66, HCO3 23.  s/p 2L NS and insulin ggt @ 
5U/hr, glucose 425--->275.  CXR negative.  BCx pending.
 
On the floor, she appeared short of breath with a hoarse voice 
and increased work of breathing.  She denied chest pain or 
pressure, only ___ "soreness" in her sternum, improved s/p MVA. 
 No headache, chest pain, nausea, vomiting, or shortness of 
breath.  

 
Past Medical History:
PMH 
DM I (won the award at ___ for being treated for ___ years)
Osteoporosis
Celiac Disease
Chronic renal insufficiency
HTN
Anemia

PSH:
Cesarean section x 3
R hand surgery (procedure was delayed due to her Ice Curling 
schedule, resulting in Dupuytrens contracture)
Bilateral cataract surgery

 
Social History:
___
Family History:
Mother with stroke, depression; Father with MI, EtOH; Sister 
with ICH

 
Physical Exam:
Admission:
Vitals:  T 98.3, HR 79, BP 128/45, RR 19, 98% RA
General: Thin, kyphotic, frail, difficulty completing sentences. 
 Weak cough  
HEENT: Anicteric sclera, dry mucous membranes, oropharynx clear  

Neck: supple, JVP not elevated, no LAD.  Thyroid nontender, not 
enlarged. 
Lungs: Increased work of breathing, using accessory muscles.  
Clear to auscultation bilaterally, no wheezes, rales, ronchi  
CV: Regular rate and rhythm with skipped beats.  Normal S1 + S2, 
no murmurs, rubs, gallops  
Abdomen: Soft, non-tender, non-distended, bowel sounds present.  
Faded surgical scars from cesarean sections.  
Back: No CVA tenderness.  Kyphotic spine.
GU: no foley  
Ext: warm, well perfused, 1+ pulses, no edema.  Left big toenail 
discolored and thick.  

Discharge:
Vitals- T 97.6 BP 128/52 HR 77 RR 16 SpO2 94% RA
General- Awake, alert, sitting in chair, no acute distress. 
Voice less hoarse than prior exams 
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated  
Lungs- CTAB
CV- RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no organomegaly    
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. variscose veins noted in bilateral feet  
Neuro- motor function grossly normal

 
Pertinent Results:
___ 09:02PM BLOOD WBC-15.5*# RBC-3.53* Hgb-10.6* Hct-33.6* 
MCV-95 MCH-30.1 MCHC-31.6 RDW-12.2 Plt ___
___ 09:02PM BLOOD Neuts-89.2* Lymphs-3.8* Monos-6.0 Eos-0.7 
Baso-0.2
___ 09:02PM BLOOD Plt ___
___ 02:45AM BLOOD ___ PTT-24.9* ___
___ 09:02PM BLOOD Glucose-398* UreaN-76* Creat-1.6* Na-125* 
K-4.9 Cl-92* HCO3-17* AnGap-21*
___ 09:30PM BLOOD LD(LDH)-252* TotBili-0.3
___ 10:15PM BLOOD CK-MB-2 cTropnT-0.39*
___ 04:05AM BLOOD CK-MB-2 cTropnT-0.37*
___ 06:15AM BLOOD ___
___ 01:03PM BLOOD CK-MB-2 cTropnT-0.47*
___ 09:30PM BLOOD CK-MB-2 cTropnT-0.43*
___ 04:05AM BLOOD Calcium-7.6* Phos-2.2* Mg-2.5 Cholest-113
___ 06:15AM BLOOD Albumin-2.9*
___ 09:30PM BLOOD calTIBC-160* Hapto-325* Ferritn-335* 
TRF-123*
___ 10:36PM BLOOD ___ pO2-67* pCO2-30* pH-7.40 
calTCO2-19* Base XS--4 Comment-GREEN TOP

Imaging:
CT CHEST ___
IMPRESSION: 
1.  No evidence of mediastinal hematoma.
2.  Moderate non-hemorrhagic bilateral pleural effusions.
3.  Bibasilar consolidations and scattered bilateral opacities, 
concerning for
multifocal infection or aspiration.
4.  Sternal and manubrial fractures, of uncertain chronicity, 
likely subacute,
without subjacent hematoma.
5.  Extensive calcified atherosclerotic disease.
6.  Compression deformity of T4 vertebral body of uncertain 
chronicity.  
.
___ CXR
FINDINGS:  Old right seventh, eighth, ninth and likely tenth 
posterior rib
fractures show signs of interval healing.  There is blunting of 
the right CP angle as well as the left which likely indicates 
tiny pleural effusions.  The heart is within normal limits of 
size.  No signs of pneumonia or CHF.  No pneumothorax is seen.  
An old left clavicular mid shaft deformity is again seen.  A 
deformity involving the mid body of the sternum is seen on the 
lateral view, showing increased displacement.
 
Brief Hospital Course:
Ms. ___ is an ___ with T1DM, osteoporosis, recent MVA with 
sternal and rib fractures, presenting with fatigue, cough, 
hoarse voice, and refractory hyperglycemia and mild 
ketoacidosis. 
 
# Diabetic Ketoacidosis: pt presented with glucose >400 with 
initial gap of 16, decreased to 7 by time of ICU arrival. 
Precipitated by infection vs. MI vs. trauma.  Insulin drip was 
stopped on first day of admission, pt was transitioned to 
glargine and diet was advanced with conservative HISS as per 
___ recs.  Pt was treated with ceftriaxone for UTI.  Other 
infectious work up, including blood culture, CXR was negative on 
day of call out from ICU. Her blood glucose continued to be 
labile on the floor, ranging from 59 to 478, though they began 
to stabilize on day prior to discharge. ___ continued to 
follow her daily throughout her admission and adjusted her 
insulin regimen as needed. She will resume her regimen of 
bedtime lantus (with gradual dose adjustment) upon discharge, 
with close ___ follow up.

# NSTEMI: Presentation of hyperglycemia with osmolar gap, new 
EKG changes and elevated troponin all concerning for NSTEMI, 
despite absence of chest pain, high risk for atypical 
presentation given that patient is an elderly female diabetic. 
Cardiac risk factors include her age and diabetes. ACEi was 
initially started, but held for hyperkalemia (K of 5.5).  
Troponin 0.37 to 0.47 to 0.43.  Per discussion with cardiology, 
pt was initially treated medically with heparin drip, full dose 
ASA, with subsequent adjustment of diagnosis to NTMI from 
___ imbalance secondary to metabolic derangement, 
rather tha primary unstable CAD.  Pt was continued on home 
statin as well as metoprolol. She will follow up with cardiology 
(Dr. ___.  

# Leukocytosis:  Possibly reactive due to hyperglycemia but high 
suspicion for urinary infection, which was treated. Given chest 
xray without signs of focal consolidation and dry cough, low 
suspicion for pneumonia, but also completed course of 
azithromycin for atypical coverage. Treated for UTI as well. 
Reactivity to persistent hyperglycemia also likely contributed. 
Stable at time of discharge (WBC 10.5, down from 14).

# Lactic acidosis:  Most likely Type B lactic acidosis due to 
hyperglycemia, though must consider being due to sepsis in 
setting of DKA with leukocytosis. Normalized prior to call out 
from ICU, no further issues on the floor.
 
# Hyponatremia: Most likely pseudohyponatremia vs hypovolemic 
hyponatremia vs SIADH from pain. Pt's serum sodium normalized 
following DKA reversal and remained normal throughout remainder 
of inpatient stay.

# Anemia: Baseline appears to be in the low ___, normocytic. 
___ workup demonstrated  normal B12 and folate, iron studies 
with Fe/TIBC ratio >20% suggestive of anemia of chronic disease. 
 Given NSTEMI, transfusion goal hct >30.  Pt had hct of 25.8 on 
evening of ___ from 29.1 earlier during the day. Pt was 
transfused 2 units with post transfusion hct of 36.4.  No clear 
source of bleeding was identified, and given the significant hct 
increase, there was suspicion for the low hct result being 
spurious. Hct remained stable throughout remainder of admission, 
with dicharge Hct 35.9.

# Difficulty swallowing: She endorses difficulty swallowing 
pills, concerning for esophagitis vs. achalasia. Oral mucosa 
clear. Seemed to improve spontaneously. She had a speech and 
swallow consult (cleared for aspiration risk) and was then 
advanced to a full regular diet without difficulty.   

# Orthopnea:  Likely ___ CHF given NSTEMI, increased pulmonary 
congestion on CXR, and persistent, dry cough. Echo was deferred 
to outpatient setting given rib and sternum fractures and lack 
of acuity. She was started on 10mg PO lasix which improved her 
symptoms. No further issues. Can have outpatient echo if 
indicated.

# Sternal/rib fractures: Pain was controlled with tylenol. No 
residual active issues.

# Chronic kidney disease: Unknown recent baseline but 1.1-1.3 in 
___ of this year, presenting with Cr initially of 1.6, rapidly 
improved with IVF in ED suggests prerenal etiology engrafted on 
underlyingh diabetic nephropathy, as does high BUN:Cr ratio. 
Appeared stable throughout admission, with discharge Cr 1.2.

TRANSITIONAL:
- f/u with Dr. ___ on ___ ___ at ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 10 Units Bedtime
Insulin SC Sliding Scale using aspart Insulin
2. Aspirin 81 mg PO DAILY 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
4. azelastine 137 mcg nasal bid 
5. Nitroglycerin SL 0.3 mg SL PRN chest pain 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Glargine 10 Units Bedtime or as adjusted
Insulin SC Sliding Scale using aspart Insulin
3. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
4. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*0
5. Acetaminophen 650 mg PO Q6H prn pain 
do not exceed 3000mg/day 
RX *acetaminophen 650 mg 1 tablet extended release(s) by mouth 
every six hours as needed for pain Disp #*30 Tablet Refills:*0
6. azelastine 137 mcg nasal bid 
7. Nitroglycerin SL 0.3 mg SL PRN chest pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: Diabetic Ketoacidosis Secondary diagnoses: 
Type I Diabetes Mellitus; Subendocardial ischemic injury; 
Diabetic nephropathy, mild; Pneumonia (suspected)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent but will have home ___ 
services and stay with her daughter for a few days.

 
Discharge Instructions:
It was a pleasure taking care of you at ___. As you 
know, you came to the hospital because your blood sugar levels 
were persistently high in the weeks following your recent car 
accident. We were able to bring you blood sugar levels down and 
continued to work with our colleagues at ___ to optimize your 
insulin plan during your stay. 
 They followed you throughout your stay and will continue to 
work with you going forward. You should return to your regular 
insulin schedule and take your lantus at bedtime tonight. We 
recommend that you set an alarm to check your blood sugar once 
in the night tonight and keep a kit and glass of juice by the 
bedside, which you will drink for blood sugar less than 70. You 
can discuss whether you need to continue to do this at your 
diabetes appointment on ___. Please follow the 
sliding scale using your home novolog. 
When you arrived to the emergency room, they also found evidence 
of a mild heart attack (we call this an NSTEMI, or 
Non-ST-Elevation Myocardial Infarction). We were able to treat 
you with medications and no surgery was required. You will 
continue to take metoprolol, atorvastatin, and aspirin to help 
keep your heart healthy and follow up with Dr. ___.

We also treated you for a urinary tract infection which 
resolved, as well as what is called an atypical pneumonia, which 
also resolved with a full treatment course. You continued to 
improved and were able to be discharged. Physical therapy will 
work with you at home as you continue to recover. You will 
follow up with the ___ team, your cardiologist, and your 
primary care doctor. 

 
Followup Instructions:
___